US08057817B2
Preparation of Triaxial 95/5 ε-Caprolactone/Glycolide Copolymer Coating (CT-2)
The CT-1 copolymer was prepared by the copolymerization of c-caprolactone (0.625 mole) with glycolide (32.3 mmole) in the presence of triethanolamine (1.05 mmole) as the initiator and stannous octanoate (0.1247 mmole as 0.2M solution in toluene) as the catalyst. The polymerization was conducted in a mechanically stirred reactor under a dry nitrogen atmosphere at 150° C. for 8.0 hours. At the conclusion of the polymerization, as determined by GPC, traces of unreacted monomer were removed by distillation under reduced pressure. The composition of the purified polymer was verified by IR and NMR. The polymer was shown to melt at 61° C. as determined by DSC.

reactant | glycolide | 32.3 mmole | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | triethanolamine | 1.05 mmole | N(CCO)(CCO)CCO | C6H15NO3
product | ε-Caprolactone Glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
